US04644005
A4. 1 ethyl-5-(2-carboxyethyl)oxindole
To a solution of 12.9 g. (52.2 mmoles) of 1-ethyl-5-(2-carbomethoxyethyl)oxindole in 53 ml. of methanol was added 112.5 ml. of 1N sodium hydroxide solution. After stirring for 1 hour the reaction mixture was acidified by the addition of 165 ml. of 1N hydrochloric acid. The precipitated product was filtered and dried, 11.39 g. (93% yield).

reactant | 1-ethyl-5-(2-carbomethoxyethyl)oxindole | 52.2 mmoles | C(C)N1C(CC2=CC(=CC=C12)CCC(=O)OC)=O | C14H17NO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | ethyl-5-(2-carboxyethyl)oxindole | 93% yield | C(C)N1C(CC2=CC(=CC=C12)CCC(=O)O)=O | C13H15NO3
